US07622508B2
d. Preparation of (2-oxo-ethyl)-carbamic acid benzyl ester
To a stirred solution of (2-hydroxyethyl)carbamic acid benzyl ester (1.0 g, 5.1 mmol) and DIPEA (1.78 mL, 10.2 mmol) in DCM (15 mL) was added a solution of sulfur trioxide-pyridine complex (1.63 g, 10.2 mmol) in DMSO (15 mL) at −20° C. After 1 h, the reaction was warmed to room temperature, diluted with dichloromethane (50 mL) and washed with 1.0 N HCl (50 mL) and brine. The organics were separated, dried with anhydrous sodium sulfate, filtered, concentrated, and purified by silica gel chromatography to give the title intermediate (810 mg, 82%). 1H NMR (CDCl3, 300 MHz) δ (ppm): 9.5 (s, 1H) 7.4-7.2 (m, 5H), 5.1 (s, 2H), 3.9 (d, J=5.8 Hz, 2H), 2.9-3.3 (br, 1H).

reactant | (2-hydroxyethyl)carbamic acid benzyl ester | 5.1 mmol, 1.0 g | C(C1=CC=CC=C1)OC(NCCO)=O | C10H13NO3
reactant | DIPEA | 10.2 mmol, 1.78 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-oxo-ethyl)-carbamic acid benzyl ester | 810 mg, 82% | C(C1=CC=CC=C1)OC(NCC=O)=O | C10H11NO3
